US06087380
2-[2-(4-amidinophenyl)ethyl]-3-methyl-6-(2-methoxycarbonyl-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine-hydrochloride
Prepared analogously to Example 1 from 2-[2-(4-cyanophenyl)ethyl]-3-methyl-6-(2-methoxycarbonyl-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine, methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 20% of theory, C27H26N6O3 (482.54) Rf value: 0.30 (silica gel; ethyl acetate/ethanol/ammonia=50:45:5) EKA mass spectrum: (M+H)+ =483

reactant | 2-[2-(4-cyanophenyl)ethyl]-3-methyl-6-(2-methoxycarbonyl-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine | C(#N)C1=CC=C(C=C1)CCC1=NC=2C(=NC=C(C2)C(=O)N2C(CC3=CC=CC=C23)C(=O)OC)N1C | C27H23N5O3
reactant | hydrochloric acid | Cl | ClH
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethyl acetate ethanol ammonia | C(C)(=O)OCC.C(C)O.N
solvent | methanol | CO | CH4O
product | 2-[2-(4-amidinophenyl)ethyl]-3-methyl-6-(2-methoxycarbonyl-2,3-dihydroindol-1-yl-carbonyl)-imidazo[4,5-b]pyridine-hydrochloride | Yield: 20% | Cl.C(N)(=N)C1=CC=C(C=C1)CCC1=NC=2C(=NC=C(C2)C(=O)N2C(CC3=CC=CC=C23)C(=O)OC)N1C | InChI=1S/C27H26N6O3.ClH/c1-32-23(12-9-16-7-10-17(11-8-16)24(28)29)31-20-13-19(15-30-25(20)32)26(34)33-21-6-4-3-5-18(21)14-22(33)27(35)36-2;/h3-8,10-11,13,15,22H,9,12,14H2,1-2H3,(H3,28,29);1H
